US06573293B2
A mixture of 4-benzoyl-3,5-dimethyl-1H-pyrrole-2-carboxylic acid ethyl ester (4.13 g, 15.2 mmol) and ceric ammonium nitrate (33 g, 4 equiv.) in 50 mL of tetrahydrofuran (THF):acetic acid (HOAc):H2O 1:1:1 was refluxed overnight. The reaction mixture was then cooled, extracted with EtOAc and then basified to pH 9 with sodium carbonate. The organic layer was then washed with brine, dried (MgSO4) and concentrated followed by column chromatography to give 3.25 g (75%) of 4-benzoyl-5-formyl-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester as a yellow solid.

reactant | 4-benzoyl-3,5-dimethyl-1H-pyrrole-2-carboxylic acid ethyl ester | 15.2 mmol, 4.13 g | C(C)OC(=O)C=1NC(=C(C1C)C(C1=CC=CC=C1)=O)C | C16H17NO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | H2O | O | H2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4-benzoyl-5-formyl-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 3.25 g, 75% | C(C)OC(=O)C=1NC(=C(C1C)C(C1=CC=CC=C1)=O)C=O | C16H15NO4
